US09056843B2
N-phenyl-4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzenesulfonamide
N-Hydroxy-4-phenylsulfamoyl-benzamidine (175 mg, 0.571 mmol) was dissolved in pyridine (1902 μL). TFAA (161 μL, 1.141 mmol) was added and the reaction mixture was stirred at 75° C. for 12 h. The mixture was diluted with EtOAc and water+0.1N HCl. The phases were separated, the aqueous phase extracted and the combined organic layers were washed with 0.1N HCl and brine. After drying over magnesium sulfate, the solution was concentrated under vacuum to give a yellow solid. The crude product was subjected to purification by reverse phase prep-HPLC (gradient elution, water/MeCN both containing 0.1% TFA). Fractions containing the desired compound were combined and freeze-dried. The resulting mixture was dissolved in a mix of dioxane/water. They were load in a PL-HCO3 MP cartridge (from StratoSpheres™ SPE) and eluted with dioxane. The eluate was freeze-dried to yield the final compound.

reactant | N-Hydroxy-4-phenylsulfamoyl-benzamidine | 0.571 mmol, 175 mg | ONC(C1=CC=C(C=C1)S(NC1=CC=CC=C1)(=O)=O)=N | C13H13N3O3S
reactant | TFAA | 1.141 mmol, 161 μL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | pyridine | 1902 μL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 0.1N | O | H2O
product | N-phenyl-4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzenesulfonamide | C1(=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F | C15H10F3N3O3S
